US06852744B2
To a solution of tert-butyl 2-(3-{[(tert-butyl)oxycarbonyl]methyl}-2-oxoimidazolidinyl)acetate (1.14 g) in ethanol (10 ml) and water (10 ml) was added potassium hydroxide (0.22 g) and then the reaction mixture stirred at 70° C. for 5 hours. After the ethanol was removed under reduced pressure, to the residue was added saturated aqueous sodium hydrogen carbonate solution. The aqueous phase was washed with ethyl acetate, acidified with 10% hydrochloric acid and extracted with ethyl acetate. The organic phase was dried over magnesium sulfate, filtered and evaporated under reduced pressure. The precipitate was recrystallized with ethyl acetate and filtered off to give 2-(3-{[(tert-butyl)oxycarbonyl]methyl}-2-oxoimidazolidinyl)acetic acid (0.30 g) as a colorless solid.

reactant | tert-butyl 2-(3-{[(tert-butyl)oxycarbonyl]methyl}-2-oxoimidazolidinyl)acetate | 1.14 g | C(C)(C)(C)OC(=O)CN1C(N(CC1)CC(=O)OC(C)(C)C)=O | C15H26N2O5
reactant | potassium hydroxide | 0.22 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-(3-{[(tert-butyl)oxycarbonyl]methyl}-2-oxoimidazolidinyl)acetic acid | 0.30 g | C(C)(C)(C)OC(=O)CN1C(N(CC1)CC(=O)O)=O | C11H18N2O5
